US07595408B2
Due to the fact that the obtained di-carboxylated intermediate is a viscous oil, i.e. 2-(2,2-dimethyl-[1,3]dioxolan-4-ylmethylene)-malonic acid dimethyl ester, it needs to be introduced into the subsequent Michael addition as a solution in methanol. Methanol distillation after quench into aqueous NaHCO3 solution, after the acidic Nef and cyclization reactions, but before extraction with an organic solvent such as ethyl acetate has disadvantages. Since the intermediate resulting from the acidic Nef and cyclization reactions, i.e. 4-methoxy-2-oxo-hexahydro-furo[3,4-b]furan-3-carboxylic acid methyl ester, is a labile compound in water, and the methanol distillation requires relatively high temperatures (up to 30° C. to 40° C.), decomposition of the intermediate occurs to polar compounds. These polar compounds remain in the aqueous phase and are further lost because they are not extracted to the organic phase. Since the methanol can not be removed prior to the extractions, a considerable volume is required in the work-up of 4-methoxy-2-oxo-hexahydro-furo[3,4-b]furan-3-carboxylic acid methyl ester.

reactant | 2-(2,2-dimethyl-[1,3]dioxolan-4-ylmethylene)-malonic acid dimethyl ester | COC(C(C(=O)OC)=CC1OC(OC1)(C)C)=O | C11H16O6
reactant | methanol | CO | CH4O
product | 4-methoxy-2-oxo-hexahydro-furo[3,4-b]furan-3-carboxylic acid methyl ester | COC(=O)C1C2C(OC1=O)COC2OC | C9H12O6
